US07390923B2
a) 4-(3-Chloropropyl)phenol
3-(4-Hydroxyphenyl)-1-propanol (0.97 g, 0.006374 mol) and concentrated HCl (20 ml) were heated at 100° C. for 14 h. After being cooled, the reaction mixture was poured into water and extracted with ethyl acetate. The extracts were washed with water, dried and concentrated in vacuo to give a raw product. Purification by flash chromatography (heptane/ethyl acetate 9:1) gave a pure product (0.98 g, 90%).

reactant | 3-(4-Hydroxyphenyl)-1-propanol | 0.006374 mol, 0.97 g | OC1=CC=C(C=C1)CCCO | C9H12O2
reactant | HCl | 20 ml | Cl | ClH
solvent | water | O | H2O
product | 4-(3-Chloropropyl)phenol | 0.98 g, 90% | ClCCCC1=CC=C(C=C1)O | C9H11ClO
